US07635715B2
Step C: Preparation of 2-(4-Chloro-2-fluorophenyl)-2-methylpropanoic acid
Methyl 2-(4-chloro-2-fluorophenyl)-2-methylpropanoate (8.11 g, 35.2 mmol) was dissolved in EtOH (70.3 mL) in a vial. KOH (3.95 g, 70.3 mmol) was added, and the sealed vial was heated at 120° C. for 2 hours. The reaction mixture was then diluted with 75 mL of diethyl ether, added to a separatory funnel, partitioned with water, washed with 75 mL of water, and separated. The aqueous layer was acidified to pH=3 with 3N HCl and extracted 2 times with 100 mL of diethyl ether. The combined organic layers were dried over Na2SO4, filtered, and concentrated in vacuo to give the title compound (6.46 g) as a light yellow solid. MS (m/z)=217 (M+H)+.

reactant | Methyl 2-(4-chloro-2-fluorophenyl)-2-methylpropanoate | 35.2 mmol, 8.11 g | ClC1=CC(=C(C=C1)C(C(=O)OC)(C)C)F | C11H12ClFO2
reactant | KOH | 70.3 mmol, 3.95 g | [OH-].[K+]
solvent | EtOH | 70.3 mL | CCO | C2H6O
solvent | diethyl ether | 75 mL | C(C)OCC | C4H10O
product | 2-(4-Chloro-2-fluorophenyl)-2-methylpropanoic acid | 6.46 g | ClC1=CC(=C(C=C1)C(C(=O)O)(C)C)F | C10H10ClFO2
